US06828461B2
In an autoclave was placed 1.9 g of 5-nitro-1-naphthol, 0.02 g of 5% Pd/C (containing 50% by weight of water), and 50 g of isopropanol, and the hydrogen pressure was set at 0.8 MPa. The reaction was carried out at 50° C. for 2 hours. After the reaction mixture was cooled, the catalyst was filtered off, and the reaction mass thus obtained was analyzed by gas chromatography. As a result, the content of 5-amino-1-naphthol produced was 1.5 g (yield 95%).

reactant | 5-nitro-1-naphthol | 1.9 g | [N+](=O)([O-])C1=C2C=CC=C(C2=CC=C1)O | C10H7NO3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.02 g | [Pd] | Pd
solvent | isopropanol | 50 g | C(C)(C)O | C3H8O
product | 5-amino-1-naphthol | yield 95% | NC1=C2C=CC=C(C2=CC=C1)O | C10H9NO
